US07332529B2
Synthesis of 3,5-didodecoxybenzyl Chloride
A 1 L RBF was prepared containing 5 mL dry dichloromethane, a stir bar, a septum, an out-vent line, and a nitrogen gas line. DMF (3.3 ml, 40.3 mmol) was added and the reaction mixture was cooled in an ice bath. Thionyl chloride (2.7 ml, 40.3 mmol) was added and the reaction mixture was allowed to stir for 10 minutes. The ice bath was then removed and the reaction was allowed to stir for an additional 10 minutes. The RBF was placed in the ice bath and a mixture of pyridine (2.72 ml, 33.6 mmol) and 3,5-didodecoxybenzyl alcohol (13.2 g, 33.6 mmol) were added and dissolved in approximately 50 mL dichloromethane, drop-wise through the septum. After 15 minutes, the RBF was removed from the ice bath and the reaction mixture was stirred for 2 hours. The reaction mixture was then placed in a refrigerator overnight. The solvent was removed by rotary evaporation. To the remaining organic matter, 100 mL of 50% ether/hexanes was added to dissolve the desired derivative. A solid orange precipitate formed, the remaining liquid was decanted off, and the precipitate was washed with an additional 100 mL 50% ether/hexanes. The combined organic liquid was vacuum filtered through silica gel into a RBF and the solvent was removed under reduced pressure. Trace solvent was removed by high vacuum overnight. There was a 10.2 g yield or a 88.5% yield. The NMR characterization data for the derivative is as follows. 1NMR (300 MHz, CDCl3): 0.87 (t, J=6.6, 6H, CH2CH3), 1.15-1.6 (m, 36H, CH2(CH2)9), 1.76 (p, J=8.0, 4H, OCH2CH2), 3.9 (t, J=6.6, 4H, OCH2CH2), 4.5 (s, 2H, ArCH2), 6.36 (t, J=2.2, 1H, ArH), 6.50 (d, J=2.2, 2H, ArH).

reactant | DMF | 40.3 mmol, 3.3 ml | CN(C)C=O | C3H7NO
reactant | Thionyl chloride | 40.3 mmol, 2.7 ml | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | 33.6 mmol, 2.72 ml | N1=CC=CC=C1 | C5H5N
reactant | 3,5-didodecoxybenzyl alcohol | 33.6 mmol, 13.2 g | C(CCCCCCCCCCC)OC=1C=C(CO)C=C(C1)OCCCCCCCCCCCC | C31H56O3
solvent | dichloromethane | approximately 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3,5-didodecoxybenzyl Chloride | 88.5% yield | C(CCCCCCCCCCC)OC=1C=C(CCl)C=C(C1)OCCCCCCCCCCCC | C31H55ClO2
